US04144344
With stirring, 15 g of phosgene are introduced at 5° to 10° C in the course of 1 hour into a suspension of 10 g of 1-benzyl-4-(2-phenylamino-1-ethylamino)-piperidine in 100 ml of toluene and 48.5 ml of 3N potassium hydroxide solution. After stirring for 2 hours at 5° to 10° C, the reaction mixture is made alkaline with 43 ml of 6N potassium hydroxide solution and brought to room temperature. After it has been stirred for a further 15 hours at room temperature, the reaction mixture is filtered with suction and the residue is recrystallised from isopropanol-methanol to yield 7.2 g of 1-(1-benzyl-4-piperidinyl)-3-phenyl-2-imidazolidinone.

reactant | phosgene | 15 g | C(=O)(Cl)Cl | CCl2O
reactant | 1-benzyl-4-(2-phenylamino-1-ethylamino)-piperidine | 10 g | C(C1=CC=CC=C1)N1CCC(CC1)NCCNC1=CC=CC=C1 | C20H27N3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | potassium hydroxide | 3N, 48.5 ml | [OH-].[K+]
solvent | potassium hydroxide | 6N, 43 ml | [OH-].[K+]
product | 1-(1-benzyl-4-piperidinyl)-3-phenyl-2-imidazolidinone | 7.2 g | C(C1=CC=CC=C1)N1CCC(CC1)N1C(N(CC1)C1=CC=CC=C1)=O | C21H25N3O
